US04166115
Thioacetamide (3.8 g.) was added to a solution of ethyl 2-methoxyimino-4-bromoacetoacetate (a mixture of syn and anti isomers) (12.6 g.) in ethanol (50 ml.) and the mixture was stirred for 5 hours at 50° C. Ethanol was distilled off under reduced pressure and water was added to the residue. The resulting mixture was extracted with ethyl acetate. The extract was in turn washed with water, a sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give ethyl 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate (a mixture of syn and anti isomers) (9.0 g.).

reactant | Thioacetamide | 3.8 g | C(C)(=S)N | C2H5NS
reactant | ethyl 2-methoxyimino-4-bromoacetoacetate | CON=C(C(=O)OCC)C(=O)CBr | C7H10BrNO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate | CON=C(C(=O)OCC)C=1N=C(SC1)C | C9H12N2O3S
